US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N,N-dimethylbiphenyl-2-sulfonamide
To a 20 mL vial were 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine (50 mg, 0.19 mmol), (2-(N,N-dimethylsulfamoyl)phenyl)boronic acid, K2CO3 (43 mg, 0.19 mmol), and Pd(dppf)Cl2.CH2Cl2 (8 mg, 0.009 mmol), and a stir-bar. The vial was sealed with a teflon lined cap and sparged with N2. The vial was then charged with freshly sparged DMSO (2 mL) and then stirred 16 hours at 80° Celsius. The reaction mixture was then cooled to rt, filtered, and purified by HPLC to give the title compound (36 mg, 40%). MS (ESI): mass calcd. for C18H17FN4O2S, 372.11; m/z found, 373.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.33 (s, 2H), 8.06-7.96 (m, 2H), 7.72-7.67 (m, 1H), 7.64-7.59 (m, 1H), 7.43-7.39 (m, 1H), 7.32-7.26 (m, 2H), 2.49 (s, 6H).

reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | 0.19 mmol, 50 mg | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
reactant | (2-(N,N-dimethylsulfamoyl)phenyl)boronic acid | CN(S(=O)(=O)C1=C(C=CC=C1)B(O)O)C | C8H12BNO4S
reactant | K2CO3 | 0.19 mmol, 43 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | 0.009 mmol, 8 mg | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N,N-dimethylbiphenyl-2-sulfonamide | 36 mg, 40% | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N(C)C)F | C18H17FN4O2S
